US04067973
To a mixture of 750 cubic centimeters (cc) of ice water and 250 cc of concentrated hydrochloric acid which was stirred and cooled to ~0° C was added 128.0 grams (1.0 mole) of 2-chloroaniline. Immediately a white solid formed. This mixture was stirred at ~0° C as 69.0 grams (1.0 mole) of sodium nitrite was added over a period of ~15 minutes. After the completion of the addition, the newly formed solution was stirred for ~15 minutes and 68.0 grams (1.0 mole) of imidazole was added. After a short period, 5.0 liters of water was added and the temperature was brought to ~0° C. To this mixture was slowly added with vigorous stirring 160.0 grams of anhydrous sodium carbonate and the mixture thereafter stirred at ~0° C for 3.0 hours. At the end of the period, the solution was filtered and the solid which was recovered was washed with water. The solids were thereafter mixed with dilute hydrochloric acid (200 cc of concentrated hydrochloric acid diluted to 2.0 liters) and stirred at room temperature for ~1.0 hour. The insolubles were removed by filtration and discarded. The filtrate was made basic with 140.0 grams of sodium carbonate and the crystals which formed were removed by filtration, washed with water and dried to give 213.5 grams of crude 2-((2-chlorophenyl)azo)imidazole melting at 173°-177° C.

reactant | hydrochloric acid | 250 cc | Cl | ClH
reactant | 2-chloroaniline | 1.0 mole, 128.0 grams | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | sodium nitrite | 1.0 mole, 69.0 grams | N(=O)[O-].[Na+]
reactant | imidazole | 1.0 mole, 68.0 grams | N1C=NC=C1 | C3H4N2
reactant | sodium carbonate | 160.0 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 5.0 liters | O | H2O
product | 2-((2-chlorophenyl)azo)imidazole | 213.5 grams | ClC1=C(C=CC=C1)N=NC=1NC=CN1 | C9H7ClN4
